US07011838B2
Using 2.05 g of 2-(1-(4-chlorophenyl)ethyl)malononitrile, 10 ml of N,N-dimethylformamide, 1.38 g of potassium carbonate, and 1.77 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.49 g of 2-(1-(4-chlorophenyl)ethyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (42)).

reactant | 2-(1-(4-chlorophenyl)ethyl)malononitrile | 2.05 g | ClC1=CC=C(C=C1)C(C)C(C#N)C#N | C11H9ClN2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3,3,3-trifluoropropane | 1.77 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(1-(4-chlorophenyl)ethyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.49 g, Yield: 17% | ClC1=CC=C(C=C1)C(C)C(C#N)(C#N)CCC(F)(F)F | C14H12ClF3N2
